US06472386B1
Synthesis of N,N′-bis[[1-Methyl-5-(3,4,5-trimethoxy-phenyl)pyrazol-3-yl]methyl]piperazine
3-Chloromethyl-1-methyl-5-(3,4,5-trimethoxy-phenyl)pyrazole (119 mg) and piperazine (17 mg) were reacted in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 3-Chloromethyl-1-methyl-5-(3,4,5-trimethoxy-phenyl)pyrazole | 119 mg | ClCC1=NN(C(=C1)C1=CC(=C(C(=C1)OC)OC)OC)C | C14H17ClN2O3
reactant | piperazine | 17 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[[1-Methyl-5-(3,4,5-trimethoxy-phenyl)pyrazol-3-yl]methyl]piperazine | CN1N=C(C=C1C1=CC(=C(C(=C1)OC)OC)OC)CN1CCN(CC1)CC1=NN(C(=C1)C1=CC(=C(C(=C1)OC)OC)OC)C | C32H42N6O6
